US04634710
14.8 g of 5H-1,3-dioxolo[4,5-f]benzimidazole-6-thiol were suspended in 300 ml of alcohol and the suspension was treated while cooling with ice with 17.0 g of 2-chloromethyl-4-methoxy-3,5-dimethylpyridine hydrochloride. Thereafter, a solution of 6.0 g of sodium hydroxide in 150 ml of water was added dropwise thereto, the mixture was left to boil at reflux overnight and subsequently evaporated to dryness in vacuo. The residue was dissolved in 1000 ml of methylene chloride. The solution was washed firstly with 500 ml of 1.5N sodium hydroxide solution and then with 3×500 ml of water, dried over sodium sulfate and evaporated in vacuo. The product was purified on 300 g of silica gel using ethyl acetate/methylene chloride (1:1) as the elution agent. Crystallization from methylene chloride/petroleum ether gave 6-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]thio]-5H-1,3-dioxolo[4,5-f]benzimidazole of melting point 178°-179°.

reactant | 5H-1,3-dioxolo[4,5-f]benzimidazole-6-thiol | 14.8 g | O1COC2=CC3=C(N=C(N3)S)C=C21 | C8H6N2O2S
reactant | 2-chloromethyl-4-methoxy-3,5-dimethylpyridine hydrochloride | 17.0 g | Cl.ClCC1=NC=C(C(=C1C)OC)C
reactant | sodium hydroxide | 6.0 g | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | 6-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]thio]-5H-1,3-dioxolo[4,5-f]benzimidazole | COC1=C(C(=NC=C1C)CSC=1NC2=C(N1)C=C1C(=C2)OCO1)C | C17H17N3O3S
